US06071903
4-(4-Methoxybenzenesulfonyl)-1-(2-methyl-5-fluorobenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic Acid
To a mixture of 1.9 g (3.71 mmol) of methyl 4-(4-methoxybenzenesulfonyl)-1-(2-methyl-5-fluorobenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate in 10 ml of tetrahydrofuran was added 5 ml (4.82 mmol) of 1 N NaOH. The mixture was stirred at room temperature for 1.5 hours and the solvent removed under vacuum. To the residue was added ethyl acetate and the mixture neutralized with 1 N HCl. The organic layer was separated, washed with brine and dried with Na2SO4. The solvent was removed under vacuum to give 1.41 g of white solid. Anal. for C25H23FN2O6S: Calc'd: C,60.2; H,4.7; N,5.6; Found: C,60.2; H,4.8; N,5.4 S,6.4; F,3.6; Mass spectrum (ES) 497.5 (M-H).

reactant | methyl 4-(4-methoxybenzenesulfonyl)-1-(2-methyl-5-fluorobenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 3.71 mmol, 1.9 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(C2=C(C=CC(=C2)F)C)=O)C(=O)OC | C26H25FN2O6S
reactant | NaOH | 4.82 mmol, 1 N, 5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-Methoxybenzenesulfonyl)-1-(2-methyl-5-fluorobenzoyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic Acid | 1.41 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(C2=C(C=CC(=C2)F)C)=O)C(=O)O | C25H23FN2O6S
